US08193199B2
To a stirring solution of 8-chloro-3-(1-chloroethyl)-2-(2-methylpyridin-3-yl)-quinoline hydrochloride (1.3130 g, 3.712 mmol) in DMF (18.56 m/L, 3.712 mmol) at 100° C. was added potassium phthalimide (1.719 g, 9.281 mmol) at 100° C. and the mixture was stirred at 100° C. After 1.5 h, the mixture was concentrated under reduced pressure and triturated with water (50 mL). The resulting solid was filtered and washed with 2 N NaOH (50 mL) and then with water (500 mL), and air-dried to give 2-(1-(8-chloro-2-(2-methylpyridin-3-yl)quinolin-3-yl)ethyl)-isoindoline-1,3-dione as a tan solid: LC-MS (ESI) m/z 428.0 [M+H]+. The impure product was carried on crude without purification for the next step.

reactant | 8-chloro-3-(1-chloroethyl)-2-(2-methylpyridin-3-yl)-quinoline hydrochloride | 3.712 mmol, 1.3130 g | Cl.ClC=1C=CC=C2C=C(C(=NC12)C=1C(=NC=CC1)C)C(C)Cl
reactant | DMF | 3.712 mmol | CN(C)C=O | C3H7NO
reactant | potassium phthalimide | 9.281 mmol, 1.719 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
product | 2-(1-(8-chloro-2-(2-methylpyridin-3-yl)quinolin-3-yl)ethyl)-isoindoline-1,3-dione | ClC=1C=CC=C2C=C(C(=NC12)C=1C(=NC=CC1)C)C(C)N1C(C2=CC=CC=C2C1=O)=O | C25H18ClN3O2
